US06504046B1
In a reactor were placed 57.5 g (0.156 mole) of 4-[2-(4-chlorophenyl)propanoylamino]-4,5-dimethyl-3-oxohexanoate, 156 ml of 2-propanol, 62.4 ml of water and 15.6 ml of concentrated sulfuric acid. The mixture was refluxed for 7 hours with heating, to give rise to a reaction. After the completion of the reaction, the reaction mixture was cooled to 60° C. 446 ml of water was added for further cooling. The mixture was neutralized with a 23% aqueous sodium hydroxide solution. The precipitated crystals were collected by filtration to obtain 41.5 g (0.14 mole) of 2-(4-chlorophenyl)-N-[1-methyl-1-(methylethyl)-2-oxopropyl]propanamide (yield=90%).

reactant | 4-[2-(4-chlorophenyl)propanoylamino]-4,5-dimethyl-3-oxohexanoate | 0.156 mole, 57.5 g | ClC1=CC=C(C=C1)C(C(=O)NC(C(CC(=O)[O-])=O)(C(C)C)C)C
reactant | 2-propanol | 156 ml | CC(C)O | C3H8O
reactant | sulfuric acid | 15.6 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 446 ml | O | H2O
solvent | water | 62.4 ml | O | H2O
product | 2-(4-chlorophenyl)-N-[1-methyl-1-(methylethyl)-2-oxopropyl]propanamide | 0.14 mole, 41.5 g, yield=90% | ClC1=CC=C(C=C1)C(C(=O)NC(C(C)=O)(C(C)C)C)C | C16H22ClNO2
